US07608633B2
E. 1-[3-(4-Octylphenoxy)-2-oxopropyl]pyrrole-3-carboxylic acid
0.049 g (0.115 mmol) tert-butyl-1-[3-(4-octylphenoxy)-2-oxopropyl]pyrrole-3-carboxylate is dissolved in 10 ml absolute dichloromethane and mixed with 0.988 g (8.67 mmol) tifluoroacetic acid. Having stirred at room temperature for 3½ hours, the batch is concentrated to dryness on the rotary evaporator. Two dissolution steps in toluene and respective concentrations on the rotary evaporator leave as a crude product a greenish solid which is solved in diethyl ether and precipitated with petroleum ether. Twenty minutes of centrifugation at 3000 rpm, decantation of the supernatant, displacement of the solvent residues in the nitrogen flow and drying in a vacuum desiccator yield the product as a beige solid.

reactant | tert-butyl-1-[3-(4-octylphenoxy)-2-oxopropyl]pyrrole-3-carboxylate | 0.115 mmol, 0.049 g | C(C)(C)(C)OC(=O)C1=CN(C=C1)CC(COC1=CC=C(C=C1)CCCCCCCC)=O | C26H37NO4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[3-(4-Octylphenoxy)-2-oxopropyl]pyrrole-3-carboxylic acid | C(CCCCCCC)C1=CC=C(OCC(CN2C=C(C=C2)C(=O)O)=O)C=C1 | C22H29NO4
